US06420567B1
To a solution of 3-cyanomethyl-1-nitro-2,4,6-trimethylbenzene (5.8 g in methanol (150 mL) were sequentially added ammonium chloride (6 g in 50 mL of water), zinc powder (6 g). The exothermic reaction was vigorously stirred until it was back to RT (2 h). To work up the crude mixture was filtered off and the cake was washed with methanol. The methanolic solutions were concentrated and the residue partitioned between ethyl acetate and 1N NaOH. The organic layer was dried over MgSO4 and concentrated to give 3-cyanomethyl-2,4,6-trimethylaniline as a light brown solid (3.4 g, 69%).

reactant | 3-cyanomethyl-1-nitro-2,4,6-trimethylbenzene | C(#N)CC=1C(=C(C(=CC1C)C)[N+](=O)[O-])C | C11H12N2O2
reactant | ammonium chloride | 50 mL, 6 g | [Cl-].[NH4+]
solvent | methanol | 150 mL | CO | CH4O
catalyst | zinc | 6 g | [Zn] | Zn
product | 3-cyanomethyl-2,4,6-trimethylaniline | 3.4 g, 69% | C(#N)CC=1C(=C(N)C(=CC1C)C)C | C11H14N2
